US08859577B2
To a steel autoclave was added 2,6-dichloronicotinic acid (tech.) (30 g, 156.2 mmoles), tetrahydrofuran (30 mL) and monomethylamine (68.2 mL. 33 wt % in ethanol, 500 mmol). The reaction vessel was heated at 100° C. for 4 h. The reaction mixture was cooled and the solution transferred from the autoclave to a 500 mL flask and concentrated under vacuum to give a green solid. The solid was dissolved in 300 mL MeOH and 1.2 L EtOAc, poured into a separatory funnel and washed with 1N HCl (2×300 mL) and brine. The organic solution was then concentrated to dryness to yield 6-chloro-2-(methylamino)nicotinic acid (29 g, 96%) as an off-white solid.

reactant | 2,6-dichloronicotinic acid | 156.2 mmoles, 30 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | monomethylamine | 500 mmol, 68.2 mL | CN | CH5N
solvent | MeOH | 300 mL | CO | CH4O
solvent | EtOAc | 1.2 L | CCOC(=O)C | C4H8O2
product | 6-chloro-2-(methylamino)nicotinic acid | 29 g, 96% | ClC1=NC(=C(C(=O)O)C=C1)NC | C7H7ClN2O2
